US07067529B2
To a stirred solution of 6-cyclopentyloxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (386 mg, 0.83 mmol) in methanol (15 mL) was added powdered potassium hydroxide (465 mg, 8.30 mmol). The reaction mixture was stirred at room temperature for 15 hrs. The solvent was evaporated and the residue was diluted with ethyl acetate (20 mL) and water (20 mL). The aqueous phase was extracted with ethyl acetate (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde (280 mg, 86% yield) as a yellow oil. The crude product was used without further purification.

reactant | 6-cyclopentyloxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 0.83 mmol, 386 mg | C(C)OC(=O)N1C(C2=CC(=C(C=C2C(=C1)C=O)OC1CCCC1)OC)CC1=CC(=CC=C1)OC | C27H31NO6
reactant | potassium hydroxide | 8.30 mmol, 465 mg | [OH-].[K+]
solvent | methanol | 15 mL | CO | CH4O
product | 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde | 280 mg, 86% yield | C1(CCCC1)OC=1C=C2C(=CNC(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C24H27NO4
